US07901594B2
2,3-Diiodo-5,7,8,9,10,12-hexapropylnaphthacene
6,11-Dihydro-5,7,8,9,10,12-hexapropyl-2,3-diiodonaphthacene (0.23 8 g, 0.324 mmol), 2,3-dichloro-5,6-dicyanobenzoquinone (0.081 g, 0.35 mmol) and 1,4-dioxane (2 ml) were charged in a reactor. The mixture was refluxed for 3 hours. After cooling, the precipitates were removed by filtration. The solvent in the mixture was removed in vacuum followed by recrystallization from chloroform/methanol. The orange red title compound (0.081 g) was obtained. The isolation yield was 34%.

reactant | 6,11-Dihydro-5,7,8,9,10,12-hexapropyl-2,3-diiodonaphthacene | 0.324 mmol, 8 g | C(CC)C1=C2C=C(C(=CC2=C(C=2CC3=C(C(=C(C(=C3CC12)CCC)CCC)CCC)CCC)CCC)I)I | C36H48I2
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 0.35 mmol, 0.081 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 2,3-Diiodo-5,7,8,9,10,12-hexapropylnaphthacene | 0.081 g, yield was 34% | IC1=CC2=C(C3=CC4=C(C(=C(C(=C4C=C3C(=C2C=C1I)CCC)CCC)CCC)CCC)CCC)CCC | C36H46I2
